US05420285
Synthesis of 2-BOC-Hydrazino-5-Maleimidylpyridine [Hydrazinecarboxylic Acid, 2-[5-(2,5-Dihydro-2,5-dioxo-1H-Pyrrol-1Yl)-2-Pyridinyl]--, 1,1-Dimethylethyl Ester]
To a stirred solution of 2-BOC-hydrazino-5-amino pyridine (1 equivalent) in acetone (50 ml/gm) was added maleic anhydride (1.1 equivalents). The reaction mixture was stirred at 25° for 2 hours. To the reaction mixture was added acetic anhydride (1.2 equivalents), cobalt acetate (0.007 equivalents) and triethylamine (0.3 equivalents). The reaction mixture was stirred at 60° for 2 hours. The color of the reaction began as bright yellow and ended as dark yellow. The reaction mixture was concentrated under reduced pressure to give a yellow brown oil. Flash vacuum chromatography (hexanes/ethyl acetate (8/2)) was used to isolate the product. The product was recrystallized in ether/hexane; yield 28.3%; m.p. 182°-184°. IR (KBr): 3400, 3300, 3100, 2990, 1700, 1610, 1500, 1410, 1360, 1320, 1270, 1210, 1150, 1050, 830, 750, 690 cm-1.

reactant | 2-BOC-hydrazino-5-amino pyridine | 1 equivalent | C(=O)(OC(C)(C)C)NNC1=NC=C(C=C1)N | C10H16N4O2
reactant | maleic anhydride | 1.1 equivalents | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetic anhydride | 1.2 equivalents | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.3 equivalents | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
catalyst | cobalt acetate | 0.007 equivalents | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | 2-BOC-Hydrazino-5-Maleimidylpyridine | yield 28.3% | C(=O)(OC(C)(C)C)NNC1=NC=C(C=C1)N1C(C=CC1=O)=O | C14H16N4O4
